Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization 

 
History of Present Illness:
___ hx quiescent sarcoidosis, T2DM presents with chest pain.  
 He was in his USOH until 1:30 am on the morning of ___, when 
he was awakened by a sensation of symmetric squeezing chest 
pressure, ___ intensity, radiating into both arms and into 
the jaw. It waxed and waned through the early morning hours but 
never completely resolved. He also noted concurrent nausea and 
diaphoresis. He has had reflux before but symptoms were 
dissimilar. He went to ___ for evaluation.  
 At ___ 0.01 -> 0.18. He was given full dose 
aspirin, started on heparin gtt, and given SLN with resolution 
of chest pain. He was transferred to ___ ED.  
 In ___ ED, VS 98.1 55 115/72 12 98% RA  
 - Labs: notable for Tn < 0.01, normal chemistry, CBC with mild 
anemia and thrombocytopenia.  
 - Studies: CXR with no acute intrathoracic process. ECG with 
nonspecific ST-T changes.  
 - Interventions: heparin gtt. SLN-> CP resolved.  
 He was transferred to the Cardiology service for further care 
with stable VS.  
 On the floor recounts the hx above. Chest pain free on heparin 
gtt. Notes strong FHX early CAD/MI - father MI ___, multiple 
maternal uncles w MI in ___.  
 Notes hx of sarcoidosis. Apparently this was dx'ed at ___ he 
had CXR after a car accident revealed "spots," and these were 
biopsied. He was told he had sarcoidosis, but this has been 
quiescent.  
 States no other medical problems. Has not seen a PCP in several 
years. No cardiologist. 
 
Past Medical History:
 - sarcoidosis- quiescent. Noted accidentally on imaging, 
diagnosed by lymph node biopsy. Never needed treatment. 
 - T2DM (diet controlled)  
 
Social History:
___
Family History:
Early MIs (___) in father, mother, maternal uncles  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
 VS 98.1 117/61 54 20 98/ra  
 Genl: comfortable NAD  
 HEENT: PERRLA, no icterus, MMM  
 Neck: no JVD  
 Cor: RRR NMRG  
 Pulm: CTAB  
 Abd: soft ntnd  
 MSK: ___ without edema  
 Neuro: AOX3  

DISCHARGE PHYSICAL EXAM:
========================
Vitals: T=98.1 Tmax=98.6 HR=53 (50-80) BP=106/68 (90-140/50-70) 
___ O2= 97%on RA  
 I/O= 120/600(8hrs), 547/uncharted(24hrs)  
 Weight:  90.9
 Weight on admission:  89.7
 Telemetry: no events.
 Genl: comfortable NAD  
 HEENT: PERRLA, no icterus, MMM  
 Neck: no JVD  
 Cor: RRR, no m/g/r  
 Pulm: CTAB, no wheezes, rales or rhonchi
 Abd: soft ntnd  
 MSK: ___ without edema  
 Neuro: AOX3  
 LABS: see below  
 MICRO: none
 
Pertinent Results:
LABS ON ADMISSION:
==================
___ 05:15PM   WBC-7.2 RBC-4.58* HGB-13.6* HCT-41.6 MCV-91 
MCH-29.7 MCHC-32.7 RDW-13.5 RDWSD-44.8
___ 05:15PM   cTropnT-0.01
___ 05:15PM   GLUCOSE-116* UREA N-12 CREAT-0.7 SODIUM-140 
POTASSIUM-3.9 CHLORIDE-106 TOTAL CO2-23 ANION GAP-15
___ 04:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-0.2 PH-6.5 
LEUK-NEG

STUDIES:
========
Cardiac catheterization ___: Final report pending
80% occlusion of LAD. DES placed. 

MICRO:
======
NONE

LABS ON DISCHARGE:
==================
___ 06:50AM BLOOD WBC-7.0 RBC-4.39* Hgb-13.0* Hct-39.9* 
MCV-91 MCH-29.6 MCHC-32.6 RDW-13.5 RDWSD-45.0 Plt ___
___ 06:50AM BLOOD Glucose-119* UreaN-13 Creat-0.9 Na-139 
K-4.3 Cl-99 HCO3-27 AnGap-17
___ 06:50AM BLOOD Calcium-9.5 Phos-4.3 Mg-1.9 Cholest-PND
___ 06:50AM BLOOD %HbA1c-PND
___ 06:50AM BLOOD Triglyc-PND HDL-PND
 
Brief Hospital Course:
Mr. ___ is a ___ yo male with history of quiescent 
sarcoidosis, T2DM presents with chest pain. 

#NSTEMI: Patient had awoken from sleep in the am of ___ with 
symmetric squeezing chest pressure radiating into both arms and 
into neck/jaw. ___ severity, accompanied by nausea and 
diaphoresis. On evaluation at BI-P ED he was noted to have 
elevated troponin to 0.___hanges on ECG, 
was given aspirin and heparin and transferred to ___ for 
cardiac cath. Pt was started on baby aspirin, atorvastatin 80 mg 
and metoprolol 12.5 mg BID. Of note, metoprolol was held 
frequently due to persistent HR in the ___. Pt underwent cath on 
___ am and was found to have 80% lesion in LAD, for which a DES 
was placed. Pt was loaded with ticagrelor and transitioned to 90 
mg BID ticagrelor and aspirin dual therapy.

#T2DM: Mr ___ also has a history of T2DM which has been 
controlled with diet. He has not had an A1c or lipids check, 
which were pending on discharge but reports feeling well and 
losing >20 lb weight with diet and exercise since his diagnosis.

#Sarcoidosis: Pt reports that it was incidental finding of 
quiescent disease that he never needed treatment for.

TRANSITIONAL ISSUES:
====================
[ ] Recommend starting patient on lisinopril 2.5 mg daily for 
nephroprotection given DM
[ ] Given HR in ___, will discharge patient with 12.5 mg 
metoprolol succinate daily for cardioprotection
[ ] Follow-up with Dr. ___ in clinic on ___. 
[ ] TTE was ordered but not completed while inpatient. Consider 
obtaining as outpatient.
[ ] Follow up on lipid panel and A1c results (pending at 
discharge). Based on A1c reading, may need to initiate 
discussion regarding medical therapy for DM. 
[ ] No insurance at present. ___ Social Work has initiated 
application for ___. 
[ ] PCP appointment made for pt to establish care.
 # CODE: FULL  
 # CONTACT: Patient's fiance (see OMR) 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at night Disp #*30 
Tablet Refills:*0 
3.  Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
daily Disp #*15 Tablet Refills:*0 
5.  TiCAGRELOR 90 mg PO BID 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
Non-ST elevation myocardial infarction

Secondary Diagnoses:
Diabetes Mellitus
Sarcoidosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure being a part of your care at ___ 
___!

Why were you hospitalized? 
-Because you had an episode of chest pain 

What was done for you?
-Labs at the outside hospital revealed that you are having a 
small heart attack, or a NSTEMI. 
-You were transferred to ___ where you underwent a cardiac 
catheterization (a study of the coronary arteries- the vessels 
feeding your heart)
-During the catheterization, a blockage was noticed in one of 
the main arteries, and a stent was placed to open the artery 
back up
-You were started on several medications to protect your heart 
and prevent more blockages from forming, including a statin 
(cholesterol medication), aspirin, beta blocker (a blood 
pressure medication that protects the heart) and an ACE 
inhibitor (to protect your kidneys from damage due to diabetes).

What should you do after leaving the hospital?
-It is very important that you follow up with your cardiologist. 
We have made an appointment for you (as shown below). 
-We have also made a PCP appointment for you (see below)
-It is important that you continue to take the medications as 
directed.

We wish you all the best!

Sincerely,
Your ___ Cardiology Team
 
Followup Instructions:
___